US07943774B2
2-[5-Methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]-1-{4-[4-(naphthalen-1-ylethynyl)-1,3-thiazol-2-yl]piperidin-1-yl}ethanone (I-50, 157 mg) is dissolved in methanol (1.5 ml) and, at 60° C., reacted with ammonium formiate (195 mg) and 20% Pd(OH)2/C (4 mg) as catalyst. The catalyst is filtered off and the solvent is removed under reduced pressure, giving 2-[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]-1-(4-{4-[2-(naphthalen-1-yl)ethyl]-1,3-thiazol-2-yl}piperidin-1-yl)ethanone (86 mg) as a colourless oil.

reactant | 2-[5-Methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]-1-{4-[4-(naphthalen-1-ylethynyl)-1,3-thiazol-2-yl]piperidin-1-yl}ethanone | 157 mg | CC1=CC(=NN1CC(=O)N1CCC(CC1)C=1SC=C(N1)C#CC1=CC=CC2=CC=CC=C12)C(F)(F)F | C27H23F3N4OS
solvent | methanol | 1.5 ml | CO | CH4O
catalyst | ammonium formiate | 195 mg | C(=O)[O-].[NH4+]
catalyst | Pd(OH)2/C | 4 mg | [OH-].[OH-].[Pd+2]
product | 2-[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]-1-(4-{4-[2-(naphthalen-1-yl)ethyl]-1,3-thiazol-2-yl}piperidin-1-yl)ethanone | 86 mg | CC1=CC(=NN1CC(=O)N1CCC(CC1)C=1SC=C(N1)CCC1=CC=CC2=CC=CC=C12)C(F)(F)F | C27H27F3N4OS
